US09260429B2
Preparation of 2-(5-chloro-1-(2-(2-methlpyrimidin-5-yl)ethyl)-1H-indol-3-yl)-N-methylethanamine
The title compound is prepared by General Method 3 using 1-(4-chlorophenyl)-1-(2-(2-methylpyrimidin-5-yl)ethyl)hydrazine and 4,4-dimethoxy-N-methylbutan-1-amine.

reactant | 1-(4-chlorophenyl)-1-(2-(2-methylpyrimidin-5-yl)ethyl)hydrazine | ClC1=CC=C(C=C1)N(N)CCC=1C=NC(=NC1)C | C13H15ClN4
reactant | 4,4-dimethoxy-N-methylbutan-1-amine | COC(CCCNC)OC | C7H17NO2
product | 2-(5-chloro-1-(2-(2-methlpyrimidin-5-yl)ethyl)-1H-indol-3-yl)-N-methylethanamine | ClC=1C=C2C(=CN(C2=CC1)CCC=1C=NC(=NC1)C)CCNC | C18H21ClN4
